US06787652B1
2-{3-Chloro-4-[3-(benzenesulfonyl)-4-methoxy-phenoxy]-5-methyl-phenyl)-2H-[1,2,4]triazine-3,5-dione
A mixture of 2-{3-chloro-4-[4-methoxy-phenoxy]-5-methyl-phenyl}-2H-[1,2,4]triazine-3,5-dione (1.0 g) and benzenesulfonic acid (0.9 g) in Eaton's reagent (5 mL) was heated at 80° C. for 8 h. The reaction was poured over ice, stirred for 30 min, solids filtered, dried and flash chromatographed on silica gel (30-100% THF/hexanes) to afford the title compound of Step A, 0.66 g.

reactant | 2-{3-chloro-4-[4-methoxy-phenoxy]-5-methyl-phenyl}-2H-[1,2,4]triazine-3,5-dione | 1.0 g | ClC=1C=C(C=C(C1OC1=CC=C(C=C1)OC)C)N1N=CC(NC1=O)=O | C17H14ClN3O4
reactant | benzenesulfonic acid | 0.9 g | C1(=CC=CC=C1)S(=O)(=O)O | C6H6O3S
solvent | Eaton's reagent | 5 mL | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
product | 2-{3-Chloro-4-[3-(benzenesulfonyl)-4-methoxy-phenoxy]-5-methyl-phenyl)-2H-[1,2,4]triazine-3,5-dione | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)S(=O)(=O)C1=CC=CC=C1)C)N1N=CC(NC1=O)=O | C23H18ClN3O6S
